** sch_path: /foss/designs/inv_tb.sch
**.subckt inv_tb
xinv1 VDD in out GND inv
V1 VDD GND 3.3
VIN in GND 3.3
C1 out GND 5f m=1
**** begin user architecture code

.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical




.control
save all

** Define input signal
let fsig = 1k
let tper = 1/fsig
let tfr = 0.01*tper
let ton = 0.5*tper-2*tfr

** Define transient params
let tstop = 2*tper
let tstep = 0.001*tper

** Set Sources
alter @VIN[DC] = 0.0
alter @VIN[PULSE] = [ 0 3.3 0 $&tfr $&tfr $&ton $&tper 0 ]

** Simulations
op
dc vin 0 3.3 0.01
tran $&tstep $&tstop

** Plots
setplot op1

exit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/inv.sym
** sch_path: /foss/designs/inv.sch
.subckt inv vdd vi vo vss
*.iopin vdd
*.iopin vss
*.ipin vi
*.opin vo
XM1 vo vi vss vss nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 vo vi vdd vdd pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

.GLOBAL VDD
.GLOBAL GND
.end
